US06369091B1
2-(N-Cyclohexylcarbanoyl-4′-aminophenyl)-6-(cyclohexylcarbanoylamino)-benzimidazole was prepared by Method A from 2-(4-aminophenyl)-6-aminobenzimidazole (0.195 g, 0.87 mmole) and cyclohexylcarbonyl chloride (0.291 ml, 0.319 g, 2.175 mmole). The resulting solid (76.7 mg) was purified by preparative HPLC.

reactant | 2-(4-aminophenyl)-6-aminobenzimidazole | 0.87 mmole, 0.195 g | NC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C=C2)N | C13H12N4
reactant | cyclohexylcarbonyl chloride | 2.175 mmole, 0.291 ml, 0.319 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | 2-(N-Cyclohexylcarbanoyl-4′-aminophenyl)-6-(cyclohexylcarbanoylamino)-benzimidazole | C1(CCCCC1)C(=O)NC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C=C2)NC(=O)C2CCCCC2 | C27H32N4O2
